US09126940B2
tert-butyl (1E,4E)-8-bromo-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-2-ylcarbamate, 2-(dimethylamino)ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate (1.5 equiv), tetrakis(triphenylphosphine)palladium(0), 2M aqueous potassium carbonate (3 equiv) were combined in 2 mls of acetonitrile in a microwave reaction vial. This mixture was heated in a microwave to 100° C. for 30 minutes. The mixture was then diluted with EtOAc, washed twice with brine, dried over sodium sulfate, and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 7% MeOH/DCM) afforded 2-(dimethylamino)ethyl-2-(4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate. Step 2: 2-(dimethylamino)ethyl-2-(4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate was dissolved in 2 mls of dichloromethane and 0.5 ml of TFA. After about one hour, the mixture was concentrated under reduced pressure and the resulting residue was then re-dissolved in dichloromethane and 1 ml of concentrated ammonium hydroxide added and the mixture vigorously stirred for 15 minutes. This mixture was then diluted with water, extracted with dichloromethane (2×), extracts dried over sodium sulfate and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 10% MeOH/DCM/0.5% NH4OH) afforded 2-(dimethylamino)ethyl-2-(4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate. 1H NMR (400 MHz, CDCl3) δ 7.59-7.64 (m, 2H), 7.48-7.51 (m, 1H), 7.28-7.38 (m, 4H), 6.87 (s, 1H), 4.19-4.24 (m, 2H), 3.58-3.74 (m, 6H), 3.44-3.52 (m, 2H), 2.84 (s, 2H), 2.54-2.61 (m, 2H), 2.27 (s, 6H), 1.79-1.86 (m, 2H), 1.65-1.76 (m, 2H), 0.89-0.97 (m, 3H); m/z (APCI-pos) M+1=507.2.

reactant | 2-(dimethylamino)ethyl-2-(4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate | CN(CCOC(CC1=CC=C(C=C1)C=1C=CC\2=C(\N=C(/C\C(=C2)\C(N(CCC)CCCO[Si](C)(C)C(C)(C)C)=O)\NC(=O)OC(C)(C)C)C1)=O)C | C40H60N4O6Si
solvent | dichloromethane | 2 mls | ClCCl | CH2Cl2
solvent | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(dimethylamino)ethyl-2-(4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate | CN(CCOC(CC1=CC=C(C=C1)C=1C=CC\2=C(\N=C(/C\C(=C2)\C(N(CCC)CCCO)=O)\N)C1)=O)C | C29H38N4O4
